US07323472B2
4-(4-Fluoro-2-methyl-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 4-fluoro-2-methylphenylboronic acid to give the title compound 4-(4-fluoro-2-methyl-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.28 (s, 3H) 0.59 (s, 3H), 7.01 (m, 2H), 7.18 (m, 3H), 7.24 (m, 1H), 8.42 (m, 1H), 9.63 (s, 1H), 11.30 (br s, 1H). LC MS (m/e)=372 (MH+).

reactant | 4-chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)F)SC | C12H9ClFN3OS
reactant | 4-fluoro-2-methylphenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4-(4-fluoro-2-methyl-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=CC(=C(C=C1)C1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)F)SC)C | C19H15F2N3OS
